US08217069B2
To a solution of 9-{-4-[2-(tert-butyldimethylsilyloxy)ethoxy]-2-chloro-5-(2-fluoro-6-methoxybenzyloxy)phenyl}-2-bis(ethoxycarbonyl)methyl-6-methoxy-7,9-dihydro-8H-purin-8-one (0.32 g), which was prepared in a similar manner to that described in Example 310 using 4-[2-(tert-butyldimethylsilyloxy)ethoxy]-2-chloro-5-(2-fluoro-6-methoxy-benzyloxy)aniline instead of 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline, in tetrahydrofuran (4.2 mL) was added tetra(n-butyl)ammonium fluoride (1 mol/L tetrahydrofuran solution, 8.4 mL), and the mixture was stirred at room temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-ethyl acetate/methanol=9/1) to give 9-[2-chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-(2-hydroxyethoxy)-phenyl]-2-bis(ethoxycarbonyl)methyl-6-methoxy-7,9-dihydro-8H-purin-8-one (0.24 g). To this material were added tetrahydrofuran (7 mL), methanol (3.5 mL), water (3.5 mL) and lithium hydroxide monohydrate (0.31 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate−ethyl acetate/methanol=7/3) to give the title compound (0.14 g).

reactant | 9-{-4-[2-(tert-butyldimethylsilyloxy)ethoxy]-2-chloro-5-(2-fluoro-6-methoxybenzyloxy)phenyl}-2-bis(ethoxycarbonyl)methyl-6-methoxy-7,9-dihydro-8H-purin-8-one | 0.32 g | [Si](C)(C)(C(C)(C)C)OCCOC1=CC(=C(C=C1OCC1=C(C=CC=C1OC)F)N1C2=NC(=NC(=C2NC1=O)OC)C(C(=O)OCC)C(=O)OCC)Cl | C35H44ClFN4O10Si
reactant | 4-[2-(tert-butyldimethylsilyloxy)ethoxy]-2-chloro-5-(2-fluoro-6-methoxy-benzyloxy)aniline | [Si](C)(C)(C(C)(C)C)OCCOC1=CC(=C(N)C=C1OCC1=C(C=CC=C1OC)F)Cl | C22H31ClFNO4Si
reactant | tetra(n-butyl)ammonium fluoride | 1 mol/L, 8.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 4.2 mL | O1CCCC1 | C4H8O
product | 9-[2-chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-(2-hydroxyethoxy)-phenyl]-2-bis(ethoxycarbonyl)methyl-6-methoxy-7,9-dihydro-8H-purin-8-one | 0.24 g | ClC1=C(C=C(C(=C1)OCCO)OCC1=C(C=CC=C1OC)F)N1C2=NC(=NC(=C2NC1=O)OC)C(C(=O)OCC)C(=O)OCC | C29H30ClFN4O10
